US04272449
In like manner, each of 2-(2-chloro-4-trifluoromethylphenyl)-3-methylbutyramide and 3-(1,2-dibromo-2,2-dichloroethyl)-2,2-dimethylcyclopropaneamide is reacted with trimethyloxonium tetrafluoroborate, giving methyl 2-(2-chloro-4-trifluoromethylphenyl)-3-methylbutanimidate and methyl 2-(1,2-dibromo-2,2-dichloroethyl)-2,2-dimethylcyclopropanimidate, respectively. Each of these imidates is then reacted with 3-phenoxybenzyl alcohol to yield, respectively, 3-phenoxybenzyl 2-(2-chloro-4-trifluoromethylphenyl)-3-methylbutanimidate and 3-phenoxybenzyl 2-(1,2-dibromo-2,2-dichloroethyl)-2,2-dimethylcyclopropanimidate.

reactant | 2-(2-chloro-4-trifluoromethylphenyl)-3-methylbutyramide | ClC1=C(C=CC(=C1)C(F)(F)F)C(C(=O)N)C(C)C | C12H13ClF3NO
reactant | 3-(1,2-dibromo-2,2-dichloroethyl)-2,2-dimethylcyclopropaneamide | BrC(C(Cl)(Cl)Br)C1C(C1C(=O)N)(C)C | C8H11Br2Cl2NO
reactant | trimethyloxonium tetrafluoroborate | F[B-](F)(F)F.C[O+](C)C
product | methyl 2-(2-chloro-4-trifluoromethylphenyl)-3-methylbutanimidate | ClC1=C(C=CC(=C1)C(F)(F)F)C(C(OC)=N)C(C)C | C13H15ClF3NO
